US08603975B2
To a solution of tert-butyl 4-methoxy-4-(1-methyl-1H-imidazol-2-yl)piperidine-1-carboxylate (182 mg) in EtOAc (0.7 ml) and water (0.09 ml) was added 4N hydrogen chloride in EtOAc (0.7 ml) and the mixture was stirred at room temperature for 2 hours. Solvent was removed in vacuo to give 4-methoxy-4-(1-methyl-1H-imidazol-2-yl)piperidine dihydrochloride (122 mg) as a colorless powder. The obtained crude product was used in next reaction without further purification.

reactant | tert-butyl 4-methoxy-4-(1-methyl-1H-imidazol-2-yl)piperidine-1-carboxylate | 182 mg | COC1(CCN(CC1)C(=O)OC(C)(C)C)C=1N(C=CN1)C | C15H25N3O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | EtOAc | 0.7 ml | CCOC(=O)C | C4H8O2
solvent | water | 0.09 ml | O | H2O
solvent | EtOAc | 0.7 ml | CCOC(=O)C | C4H8O2
product | 4-methoxy-4-(1-methyl-1H-imidazol-2-yl)piperidine dihydrochloride | 122 mg | Cl.Cl.COC1(CCNCC1)C=1N(C=CN1)C | InChI=1S/C10H17N3O.2ClH/c1-13-8-7-12-9(13)10(14-2)3-5-11-6-4-10;;/h7-8,11H,3-6H2,1-2H3;2*1H
